US08039460B2
Step A: 2-[(6S,9R)-9-Amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl]propan-2-ol
Trifluoroacetic acid (2 mL, 26.9 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (100 mg, 0.24 mmol) in dichloromethane (3 mL). After 1 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 322.2 (M+1).

reactant | Trifluoroacetic acid | 26.9 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.24 mmol, 100 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)O)NC(OC(C)(C)C)=O | C22H29F2N3O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-[(6S,9R)-9-Amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-3-yl]propan-2-ol | N[C@H]1C=2N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C(=CN2)C(C)(C)O | C17H21F2N3O
